US07402592B2
3-(3-pyridinyl)-6-azabicyclo[3.2.1]octane
To a solution of a mixture of t-butyl 3-(3-pyridinyl)-6-azabicyclo[3.2.1] oct-2-ene-6-carboxylate and t-butyl 3-(3-pyridinyl)-6-azabicyclo[3.2.1] oct-3-ene-6-carboxylate (150 mg) in methanol (5 ml) was added catalytic 10% Pd/C and the mixture was subjected to hydrogenolysis (45 psi) for 48 h. The reaction was filtered through Celite and concentrated by rotary evaporation, and then the residue was taken up in dichloromethane (1 ml) and treated with trifluoroacetic acid (2 ml). After 3 h, the mixture was concentrated to dryness by rotary evaporation, partitioned between water and dichloromethane, and the organic layer discarded. The aqueous layer was made basic with sodium hydroxide and extracted with dichloromethane. After drying over sodium sulfate, the filtered solution was concentrated to dryness by rotary evaporation and the residue purified by column chromatography, using a methanol/dichloromethane gradient (0-10% methanol with 1% ammonium hydroxide) as eluent. The product fractions were pooled and concentrated to give the desired product (20 mg). It was then re-chromatographed (same conditions) to give the free base (10 mg) as a brown oil.

reactant | t-butyl 3-(3-pyridinyl)-6-azabicyclo[3.2.1] oct-2-ene-6-carboxylate | N1=CC(=CC=C1)C1=CC2CN(C(C1)C2)C(=O)OC(C)(C)C | C17H22N2O2
reactant | t-butyl 3-(3-pyridinyl)-6-azabicyclo[3.2.1] oct-3-ene-6-carboxylate | 150 mg | N1=CC(=CC=C1)C=1CC2CN(C(C1)C2)C(=O)OC(C)(C)C | C17H22N2O2
solvent | methanol | 5 ml | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 3-(3-pyridinyl)-6-azabicyclo[3.2.1]octane | 20 mg | N1=CC(=CC=C1)C1CC2CNC(C1)C2 | C12H16N2
